US08420810B2
1-amino-3-(1-ethylpropyl)-5-methyl-1H-pyrrole-2-carboxamide
By the same procedure as a reaction of Example 5, using 3-(1-ethylpropyl)-5-methyl-1H-pyrrole-2-carboxamide (which was provided by the same procedure as a reaction of Example 4, using a saturated aqueous solution of ammonia instead of an aqueous solution of 40% methylamine) instead of the compound prepared in Example 4, using cyclopropylamine instead of 40% aqueous solution of methylamine, and using the corresponding aldehydes instead of the compound prepared in Example 7, the title compound (1.988 g) having the following physical data was obtained.

reactant | 3-(1-ethylpropyl)-5-methyl-1H-pyrrole-2-carboxamide | C(C)C(CC)C1=C(NC(=C1)C)C(=O)N | C11H18N2O
reactant | ammonia | N | H3N
reactant | methylamine | CN | CH5N
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 1-amino-3-(1-ethylpropyl)-5-methyl-1H-pyrrole-2-carboxamide | 1.988 g | NN1C(=C(C=C1C)C(CC)CC)C(=O)N | C11H19N3O
